US07807671B2
To sodium hydride (0.20 g) taken in THF (15 ml), morpholine (0.735 ml) was added under nitrogen, at 0° C. The reaction mixture stirred for about 15 minutes, then 2,3-dibromopyrazine (2 g) dissolved in dry THF (15 ml) was added. The reaction mixture was allowed to stir at reflux conditions for overnight. The reaction mixture was quenched with water (5 ml), and volatiles were removed under vacuum. The resulting crude mass was purified by column chromatography to afford pure 4-(5-bromopyrazin-2-yl)morpholine.

reactant | sodium hydride | 0.20 g | [H-].[Na+]
reactant | morpholine | 0.735 ml | N1CCOCC1 | C4H9NO
reactant | 2,3-dibromopyrazine | 2 g | BrC1=NC=CN=C1Br | C4H2Br2N2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 4-(5-bromopyrazin-2-yl)morpholine | BrC=1N=CC(=NC1)N1CCOCC1 | C8H10BrN3O
